US06756382B2
Under a nitrogen atmnosphere triethylamine (765 mg, 7.56 mmol) was added to a solution of 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.50 g, 5.04 mmol) in 1-methyl-2-pyrrolidinone (50 mL). Benzoyl chloride (972 mg, 5.55 mmol) was added dropwise. When analysis by HPLC indicated that the reaction was complete, the reaction solution was poured into distilled water (500 mL). The pH was adjusted to 10 using solid potassium carbonate. A solid was isolated by filtration, rinsed with water and then dried in a vacuum oven. This material was stirred with chloroform (500 mL) and then filtered. The filtrate was loaded onto a silica gel column. The column was eluted with 1-5% methanol in chloroform. The purified material was dried in a vacuum oven to provide 800 mg of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]benzamide as a solid, m.p. 189.4-190.0° C. Analysis: Calculated for C24H27N5O.0.82 H2O: % C, 69.25; % H, 6.93; % N, 16.82. Found: % C, 69.50; % H, 7.15; % N, 17.02.

reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.04 mmol, 1.50 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
reactant | Benzoyl chloride | 5.55 mmol, 972 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | 1-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]benzamide | 800 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(C2=CC=CC=C2)=O)CCCC | C24H27N5O
